US07834035B2
{3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-phenyl-methanone
The compound was prepared following the procedure described in the Example 3(D), using 4-Fluoro-benzoyl chloride as the acyl chloride of choice and the 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride (already prepared before in the Example 4(B)). Yield: 30% (white powder); mp=82-83° C.; Rf=0.25 (DCM/MeOH: 98/2);

reactant | 4-Fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C1=NOC(=N1)C1CNCCC1
solvent | DCM MeOH | C(Cl)Cl.CO
product | {3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-phenyl-methanone | Yield: 30% | FC1=CC=C(C=C1)C1=NOC(=N1)C1CN(CCC1)C(=O)C1=CC=CC=C1 | C20H18FN3O2
